US03954754
EXAMPLE 27: 3-Hydrazino-5,6,7,8-tetrahydro-6-(2-naphthoyl)pyrido[4,3-c]pyridazine
The 3-chloro-6-(2-naphthoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine, required as starting material, is produced in a manner analogous to that described in Example 8 (g), from 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate and 2-naphthoyl chloride. Reaction time 22 hours at room temperature. M.P. 167°-170° (decomp., from 95% ethanol).

reactant | 3-chloro-6-(2-naphthoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | ClC1=CC2=C(N=N1)CCN(C2)C(=O)C2=CC1=CC=CC=C1C=C2 | C18H14ClN3O
reactant | 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate | C(\C=C/C(=O)O)(=O)O.ClC1=CC2=C(N=N1)CCNC2
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | ethanol | C(C)O | C2H6O
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-(2-naphthoyl)pyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(=O)C2=CC1=CC=CC=C1C=C2 | C18H17N5O
